US05059597
d) 1,2-Dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane
11.8 g (64 mmol) of 7-acetyl-1,2-dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane are heated under reflux with 12 g of NaOH in 36 ml of water overnight. The mixture is saturated with K2CO3 and extracted several times with CHCl3, the extract is dried over K2CO3 and concentrated and the residue is distilled.

reactant | 7-acetyl-1,2-dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane | 64 mmol, 11.8 g | C(C)(=O)N1CC2CON(C2(C1)C)C | C9H16N2O2
reactant | NaOH | 12 g | [OH-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 36 ml | O | H2O
product | 1,2-Dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane | CC12N(OCC2CNC1)C | C7H14N2O
